US06093710
To a mixture of 2-bromo-5-methoxycarbonyl-3-nitrothiophene (110.7 g) and methyl mercaptoacetate (37.2 ml) in tetrahydrofuran (1 l) was added triethylamine (63.8 ml). After stirring for 4 hours at room temperature, the reaction mixture was poured into water. The resulting precipitate was collected by filtration and washed with water to give 2-methoxycarbonylmethylthio-5-methoxycarbonyl-3-nitrothiophene (118.15 g).

reactant | 2-bromo-5-methoxycarbonyl-3-nitrothiophene | 110.7 g | BrC=1SC(=CC1[N+](=O)[O-])C(=O)OC | C6H4BrNO4S
reactant | methyl mercaptoacetate | 37.2 ml | SCC(=O)OC | C3H6O2S
reactant | triethylamine | 63.8 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
product | 2-methoxycarbonylmethylthio-5-methoxycarbonyl-3-nitrothiophene | 118.15 g | COC(=O)CSC=1SC(=CC1[N+](=O)[O-])C(=O)OC | C9H9NO6S2
